US07238808B2
Step 1) Trifluoro-methanesulfonic acid 2-bromo-pyridin-3-yl ester
To a solution of 2-bromo-3-hydroxypyridine[CAS 6602–32–0, commercially available] (25.0 g, 144 mmol) in anhydrous pyridine (145 mL) at −10° C. (ice/NaCl) was drop wise added Tf2O (24.2 mL, 147 mmol) keeping the temperature below −5° C. (30 min). The cooling bath was removed and mixture was allowed to reach 23° C., stirred at 23° C. for 75 min, poured into sat. NaHCO3-sol., extracted with DCM, washed with brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown oil, which was purified by vacuum distillation: bp 65° C. (0.82 mbar) (42 g colorless oil, with some solid); triturated with hexane, filtered the undesired solid off, washed with hexane, collected the mother liquor, evaporated the solvent to give the title compound as a colorless liquid (41.52 g, 94%). MS (TOF ESP) 306 [(M+H)+], 307.85 [(M+2+H)+].

reactant | 2-bromo-3-hydroxypyridine | BrC1=NC=CC=C1O | C5H4BrNO
reactant | Tf2O | 147 mmol, 24.2 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 145 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 2-bromo-pyridin-3-yl ester | 41.52 g, 94% | BrC1=NC=CC=C1OS(=O)(=O)C(F)(F)F | C6H3BrF3NO3S
